US06613942B1
2-[4-(3-Hydroxypropyl)naphthyl]dioxolane (step A):
To a solution of 2-[4-(2-ethoxycarbonylethyl)naphthyl]dioxolane (210 mg, 0.70 mmol) in anhydrous THF (5 mL) was added at 0° C. 1M lithium aluminum hydride in THF (0.5 mL). THF (5 mL) was added and the mixture was stirred at room temperature for 16 hr, diluted with water (10 mL), acidified with conc. hydrochloric acid, and extracted with ether (3×10 mL). The combined organic extracts were dried (MgSO4), and concentrated. The residue was purified by flash chromatography using hexane/ethyl acetate 2:1 as eluent to provide 67 mg (37%) of a colorless oil.

reactant | 2-[4-(2-ethoxycarbonylethyl)naphthyl]dioxolane | 0.70 mmol, 210 mg | C(C)OC(=O)CCC1=CC=C(C2=CC=CC=C12)C1OCCO1 | C18H20O4
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[4-(3-Hydroxypropyl)naphthyl]dioxolane | 67 mg, 37% | OCCCC1=CC=C(C2=CC=CC=C12)C1OCCO1 | C16H18O3
